US09376441B2
The crude TFA salt of (R)-4-((R)-1-((3-(difluoromethyl)-6-(4-(piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: (3.63) (0.06 mmol) was dissolved in THF (1.05 mL) and iPr2NEt (11 μL, 0.063 mmol) was added followed by oxetan-3-one (15 μL, 0.26 mmol) and sodium triacetoxyborohydride (57 mg, 0.27 mmol). The reaction mixture was stirred at 50-55° C. for 3 h and was diluted with water, 5% (w/v) aqueous Na2CO3, and EtOAc. The phases were separated, and the aqueous phase was extracted with EtOAc. The combined organic phase was dried over Na2SO4, filtered, and concentrated to afford a crude residue that was purified by silica gel chromatography (0-25% MeOH in DCM) to yield (R)-4-((R)-1-((3-(difluoromethyl)-6-(4-(4-(oxetan-3-yl)piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one: (3.66).

reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-4-((R)-1-((3-(difluoromethyl)-6-(4-(piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | FC(N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)N2CCNCC2)O[C@H](C)[C@@H]2CC(NC2)=O)F | C23H26F2N6O2
reactant | iPr2NEt | 0.063 mmol, 11 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | oxetan-3-one | 0.26 mmol, 15 μL | O1CC(C1)=O | C3H4O2
reactant | sodium triacetoxyborohydride | 0.27 mmol, 57 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 1.05 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-4-((R)-1-((3-(difluoromethyl)-6-(4-(4-(oxetan-3-yl)piperazin-1-yl)phenyl)-3H-imidazo[4,5-c]pyridin-4-yl)oxy)ethyl)pyrrolidin-2-one | FC(N1C=NC2=C1C(=NC(=C2)C2=CC=C(C=C2)N2CCN(CC2)C2COC2)O[C@H](C)[C@@H]2CC(NC2)=O)F | C26H30F2N6O3
